US04438128
1-Phenoxy-3-[2-(1,3,6-trimethylpyrimidine-2,4-dion-5-ylamino)-ethylamino] -propan-2-ol
2.43 g. Phenyl glycidyl ether and 5.15 g. 5-(2-aminoethylamino)-1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione are left to stand for 24 hours at ambient temperature, whereupon the reaction mixture is separated with silica gel using, as elution agent, methylene chlorideammoniacal methanol (95:5 v/v). The yellowish oil obtained by evaporation of the pure fractions is triturated with ethyl acetate. After subsequent recrystallization from ethyl acetate, there are obtained 2.55 g. (43% of theory) of the desired product in the form of colorless crystals; m.p. 92°-94° C.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 5-(2-aminoethylamino)-1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione | NCCNC=1C(N(C(N(C1C)C)=O)C)=O | C9H16N4O2
product | 1-Phenoxy-3-[2-(1,3,6-trimethylpyrimidine-2,4-dion-5-ylamino)-ethylamino] -propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC=1C(N(C(N(C1C)C)=O)C)=O)O | C18H26N4O4
